US07598412B2
Benzofuran-2-carboxylic acid (1-benzo[1,3]dioxol-5-yl-cyclopentylmethyl)-amide
C-(1-Benzo[1,3]dioxol-5-yl-cyclopentyl)-methylamine (43.8 mg, 0.200 mmol) and benzofuran-2-carbonyl chloride (36.1 mg, 0.200 mmol) were dissolved in 2 mL of 1,4-dioxane containing triethylamine (83.6 μL, 0.600 mmol). The reaction mixture was stirred for 15 hours, evaporated to dryness, and purified by reverse phase preparative liquid chromatography to yield the pure product (13.0 mg, 0.0358 mmol, 17.8%). ESI-MS m/z calc. 363.2, found 364.2 (M+1)+. Retention time of 4.22 minutes.

reactant | C-(1-Benzo[1,3]dioxol-5-yl-cyclopentyl)-methylamine | 0.200 mmol, 43.8 mg | O1COC2=C1C=CC(=C2)C2(CCCC2)CN | C13H17NO2
reactant | benzofuran-2-carbonyl chloride | 0.200 mmol, 36.1 mg | O1C(=CC2=C1C=CC=C2)C(=O)Cl | C9H5ClO2
reactant | triethylamine | 0.600 mmol, 83.6 μL | C(C)N(CC)CC | C6H15N
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | Benzofuran-2-carboxylic acid (1-benzo[1,3]dioxol-5-yl-cyclopentylmethyl)-amide | 0.0358 mmol, 13.0 mg, 17.8% | O1COC2=C1C=CC(=C2)C2(CCCC2)CNC(=O)C=2OC1=C(C2)C=CC=C1 | C22H21NO4
